US06884821B1
0.18 g of methyl 3-[4-methoxy-3-({[4-(trifluoromethyl)benzyl]amino}carbonyl)phenyl]-2propoxypropanoate was dissolved in 2 ml methanol, and 2 ml of 1 N sodium hydroxide was added, and the mixture was stirred at room temperature for 4 hours. The reaction mixture was ice-cooled, neutralized with 1N hydrochloric acid, and then extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and the solvent was evaporated, to give 0.15 g of 3-[4-methoxy-3-({[4-(trifluoromethyl)benzyl]amino}carbonyl)phenyl]-2-propoxypropanoic acid.

reactant | methyl 3-[4-methoxy-3-({[4-(trifluoromethyl)benzyl]amino}carbonyl)phenyl]-2propoxypropanoate | 0.18 g | COC1=C(C=C(C=C1)CC(C(=O)OC)OCCC)C(=O)NCC1=CC=C(C=C1)C(F)(F)F | C23H26F3NO5
reactant | sodium hydroxide | 1 N, 2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | 3-[4-methoxy-3-({[4-(trifluoromethyl)benzyl]amino}carbonyl)phenyl]-2-propoxypropanoic acid | 0.15 g | COC1=C(C=C(C=C1)CC(C(=O)O)OCCC)C(=O)NCC1=CC=C(C=C1)C(F)(F)F | C22H24F3NO5
